US07169761B2
Sodium methoxide (16 mg) was added to a solution of (2S,3S,4R,5R,6R)-2-[3-[(1-acetylazulen-2-yl)methyl]phenyl]-6-[(acetyloxy)methyl]tetrahydro-2H-pyran-3,4,5-triyl triacetate (0.09 g) in THF-methanol (ratio: 1:1, 6.0 ml) at 0° C. and the mixture was stirred for two hours. After neutralizing with a cation exchange resin, the reaction mixture was added to 10% aqueous solution of hydrochloric acid under cooling with ice. After filtration, the filtrate was concentrated. The residue was purified by silica gel column chromatography (chloroform-methanol) to obtain 1-(2-[3-[(2S,3R,4R,5S,6R)-3,4,5-trihydroxy-6-(hydroxymethyl)tetrahydro-2H-pyran-2-yl]benzyl]azulen-1-yl)ethanone (0.06 g).

reactant | Sodium methoxide | 16 mg | C[O-].[Na+]
reactant | (2S,3S,4R,5R,6R)-2-[3-[(1-acetylazulen-2-yl)methyl]phenyl]-6-[(acetyloxy)methyl]tetrahydro-2H-pyran-3,4,5-triyl triacetate | 0.09 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)C1=CC(=CC=C1)CC1=C(C2=CC=CC=CC2=C1)C(C)=O | C33H34O10
reactant | hydrochloric acid | Cl | ClH
solvent | THF methanol | 6.0 ml | C1CCOC1.CO
product | 1-(2-[3-[(2S,3R,4R,5S,6R)-3,4,5-trihydroxy-6-(hydroxymethyl)tetrahydro-2H-pyran-2-yl]benzyl]azulen-1-yl)ethanone | 0.06 g | O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1O)O)CO)C=1C=C(CC2=C(C3=CC=CC=CC3=C2)C(C)=O)C=CC1 | C25H26O6
